US04598102
Synthesis of Methyl 5-Norbornene-2-Carboxylate
In 100 ml of anhydrous ether at 0° C. is mixed 30 ml of cyclopentadiene and 32 ml of methyl acrylate. The ice bath is removed and the mixture allowed to stir overnight. The solvent, unreacted methyl acrylate, and cyclopentadiene are removed at ambient temperature at reduced pressure; as less material distilled out of the mixture the pressure is gradually reduced to 0.5 mm. The desired epimeric mixture of methyl carboxylates is distilled at 42°-43° and 0.5 mm; ir: 3118, 3060, 2965, 2941, 2862, 1734, 1428, 1329, 1264, 1190, 1024, 704, cm-1. 60 MHz NMR: endo/exo=80/20.

reactant | cyclopentadiene | 30 ml | C1=CC=CC1 | C5H6
reactant | methyl acrylate | 32 ml | C(C=C)(=O)OC | C4H6O2
reactant | ether | 100 ml | CCOCC | C4H10O
product | Methyl 5-Norbornene-2-Carboxylate | C12C(CC(C=C1)C2)C(=O)OC | C9H12O2
